US08580831B2
5-(3-Dimethylamino-phenyl)-oxazole-4-carboxylic acid {2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure Z2, starting from 2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(3-dimethylamino-phenyl)-oxazole-4-carboxylic acid.

reactant | 2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C1=CC=C(O1)CN1N=CC(=N1)N | C9H10F2N4O
reactant | 5-(3-dimethylamino-phenyl)-oxazole-4-carboxylic acid | CN(C=1C=C(C=CC1)C1=C(N=CO1)C(=O)O)C | C12H12N2O3
product | 5-(3-Dimethylamino-phenyl)-oxazole-4-carboxylic acid {2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C1=CC=C(O1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC(=CC=C1)N(C)C | C21H20F2N6O3
